US08669249B2
Ethyl 2-fluoro-2-(4-formyl-2-nitrophenoxy)acetate (9)
Using 3-hydroxy-4-nitrobenzaldehyde as the phenol and ethyl 2-bromo-2-fluoroacetate as the alkylating agent in the general procedure for alkylation of substituted-2-nitrophenols gives a yellow oil: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.26 (t, J=7.07 Hz, 3H), 4.26-4.38 (m, 2H), 6.83 (d, J=55.8 Hz, 1H), 7.76 (dd, J=8.84, 1.26 Hz, 1H), 8.28 (dd, J=8.59, 2.02 Hz, 1H) 8.54 (d, J=2.02 Hz, 1H), 10.02 (s, 1H). ESI-MS: m/z 272.1 (M+H)+.

reactant | 3-hydroxy-4-nitrobenzaldehyde | OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H5NO4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | ethyl 2-bromo-2-fluoroacetate | BrC(C(=O)OCC)F | C4H6BrFO2
product | Ethyl 2-fluoro-2-(4-formyl-2-nitrophenoxy)acetate | FC(C(=O)OCC)OC1=C(C=C(C=C1)C=O)[N+](=O)[O-] | C11H10FNO6
